US04247559
A mixture of 63.7 g. of N-[p-(iodomethylsulfonyl)-phenyl]acetamide and 360 ml. of 5.5 N sulfuric acid is stirred and heated at reflux until all of the solid dissolves. After cooling, the crude, solid product separates; it is collected, washed with cold water and air-dried. After crystallization from methanol, 26 g. of p-(iodomethylsulfonyl)aniline is obtained; m.p. 169.5°-72° C.

reactant | N-[p-(iodomethylsulfonyl)-phenyl]acetamide | ICS(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C9H10INO3S
reactant | sulfuric acid | 5.5 N | S(O)(O)(=O)=O | H2O4S
product | p-(iodomethylsulfonyl)aniline | ICS(=O)(=O)C1=CC=C(N)C=C1 | C7H8INO2S
